US05280047
Product 1B (Z): Ethyl 2Z-[(4-hexylphenyl)methylene]-3-oxobutanoate
Ethyl acetoacetate (3.9g, 0.03 moles), parahexylbenzaldehyde (3.8g, 0.02 moles) and piperidine (3 drops) were stirred at room temperature for 20 hrs. and then stirred for 4 days at 70° C. Products A and B were separated and purified by silica gel chromatography. Structure assignments were supported by NMR, infrared and uv spectra and elemental analysis (302.4).

reactant | Ethyl acetoacetate | 0.03 moles, 3.9g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | parahexylbenzaldehyde | 0.02 moles, 3.8g | C(CCCCC)C1=CC=C(C=O)C=C1 | C13H18O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | Ethyl 2Z-[(4-hexylphenyl)methylene]-3-oxobutanoate | C(CCCCC)C1=CC=C(C=C1)\C=C(/C(=O)OCC)\C(C)=O | C19H26O3
